US04772600
2-(3-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A solution of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester (4.8 g, 0.0133 mole), 95% ethanol (50 ml), sodium hydroxide pellets (0.6 g, 0.014 mole), and water (5 ml) was refluxed for 2 hrs. The ethanol was evaporated and water (50 ml) added. Glacial acetic acid was added dropwise until precipitation began (pH neutral). The precipitated solid was collected by filtration and recrystallized from ethanol-tetrahydrofuran, giving 3.9 g (88% yield) of white needles, mp 247°-249° C.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.0133 mole, 4.8 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Br)=O | C16H14BrN3O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2-(3-Bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 3.9 g, 88% yield | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
